US07119206B2
(2-Benzyl-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Add benzylmagnesium bromide (1.5 mL, 3M) to a stirred solution of (2-dimethylamino-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (1.0 g, 2.28 mmol) in THF (10 mL) at room temperature (r.t.). Stir the mixture for 30 min. and quench with sat. NaHCO3. Dilute the reaction mixture with CH2Cl2 and wash with water and brine, dry over MgSO4, filter and concentrate. Use the crude product without further purification.

reactant | benzylmagnesium bromide | 3M, 1.5 mL | C(C1=CC=CC=C1)[Mg]Br
reactant | (2-dimethylamino-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 2.28 mmol, 1.0 g | CN(C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C | C25H30N2O3S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-Benzyl-6-methoxy-benzo[b]thiophen-3-yl)-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C30H31NO3S
